*****************************************************************************
* CDL Netlist:
* Cell Name: AND3
* Netlisted on: Dec  1 16:14:57 2025
*****************************************************************************

*****************************************************************************
* BIPOLAR Declarations
*****************************************************************************
*.BIPOLAR
*.RESI = 2000.000000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.SCALE METER


*****************************************************************************
* Parameter Statement
*****************************************************************************
.PARAM


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Group2_VLSI_EE5900                                                 *
* Cell   : NOT                                                                *
* View   : schematic                                                          *
* Last Time Saved: Nov 10 16:51:06 2025                                       *
*******************************************************************************
.subckt NOT Out A Vdd Vss
*.PININFO Out:O A:I Vdd:I Vss:I 
.ends NOT


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Group2_VLSI_EE5900                                                 *
* Cell   : NAND                                                               *
* View   : schematic                                                          *
* Last Time Saved: Nov  3 17:14:07 2025                                       *
*******************************************************************************
.subckt NAND Out Vdd Vss A B
*.PININFO Out:O Vdd:B Vss:B A:I B:I 
.ends NAND


*******************************************************************************
* Sub-Circuit Netlist:                                                        *
*                                                                             *
* Library: Group2_VLSI_EE5900                                                 *
* Cell   : AND                                                                *
* View   : schematic                                                          *
* Last Time Saved: Nov 19 19:59:50 2025                                       *
*******************************************************************************
.subckt AND Out Vdd Vss A B
*.PININFO Out:O Vdd:B Vss:B A:I B:I 
XI1 Out net6 Vdd Vss NOT
XI0 net6 Vdd Vss A B NAND
.ends AND


*******************************************************************************
* Main Circuit Netlist:                                                       *
*                                                                             *
* Library: Group2_VLSI_EE5900                                                 *
* Cell   : AND3                                                               *
* View   : schematic                                                          *
* Last Time Saved: Nov 30 18:09:09 2025                                       *
*******************************************************************************
.subckt AND3 Vout A B C Vdd Vss
*.PININFO Vout:O A:I B:I C:I Vdd:I Vss:I 
XI1 Vout Vdd Vss net3 C AND
XI0 net3 Vdd Vss A B AND
.ends AND3
